US08791132B2
To a stirred solution of 1-(2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indol-8-yl)ethanone (80 mg, 0.35 mmol) in DMF (2 mL) was added sodium hydride (60%, 42 mg, 1.05 mmol). After stirring for 10 min, a solution of 4-(oxiran-2-yl)pyridine (62 mg, 0.51 mmol) in DMF (1 mL) was added into the reaction mixture, and stirred at RT for 4 h. The reaction mixture was quenched with ice water and extracted with EtOAc. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue obtain was purified by crystallization with ether to yield 1-(2,3,4,5-tetrahydro-5-(2-hydroxy-2-(pyridin-4-yl)ethyl)-2-methyl-1H-pyrido[4,3-b]indol-8-yl)ethanone (6 mg). 1H NMR (CDCl3, freebase) δ (ppm): 8.5 (d, 2H), 7.95 (s, 1H), 7.73 (d, 1H), 7.26 (d, 2H), 7.12 (d, 1H), 4.78 (t, 1H), 4.8 (d, 2H), 3.49 (m, 2H), 2.90 (m, 1H), 2.8 (q, 2H), 2.79 (s, 3H), 2.6 (m, 1H), 2.37 (s, 3H). Separation by chiral HPLC provided enantiomers 49a and 49b.

reactant | 1-(2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indol-8-yl)ethanone | 0.35 mmol, 80 mg | CN1CC2=C(NC=3C=CC(=CC23)C(C)=O)CC1 | C14H16N2O
reactant | sodium hydride | 1.05 mmol, 42 mg | [H-].[Na+]
reactant | 4-(oxiran-2-yl)pyridine | 0.51 mmol, 62 mg | O1C(C1)C1=CC=NC=C1 | C7H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(2,3,4,5-tetrahydro-5-(2-hydroxy-2-(pyridin-4-yl)ethyl)-2-methyl-1H-pyrido[4,3-b]indol-8-yl)ethanone | 6 mg | OC(CN1C2=C(C=3C=C(C=CC13)C(C)=O)CN(CC2)C)C2=CC=NC=C2 | C21H23N3O2
